US08461328B2
Acetic acid (R)-1-[1-benzenesulfonyl-4-(tetrahydro-furan-3-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamoyl]-ethyl ester
(R)-2-acetoxypropanoic acid (0.306 g, 2.32 mmol) was dissolved in methylene chloride (20 mL, 200 mmol;). Triethylamine (0.42 mL, 3.0 mmol;) was added, followed by N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.972 g, 2.56 mmol;) dissolved in N,N-dimethylformamide (2 mL, 20 mmol;). After 15 minutes, 1-benzenesulfonyl-N-(tetrahydro-furan-3-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine (0.728 g, 2.03 mmol) was added and the reaction was stirred 64 h at room temperature. The volatiles were removed under reduced pressure and the residue was dissolved in 100 ml EtOAc. This was shaken with 50 ml saturated aqueous NaHCO3. The layers were separated and the aqueous phase was extracted with EtOAc (2×50 ml). The combined organics were dried with MgSO4, filtered and concentrated. This material was then dissolved in a minimum volume of CH2Cl2 and injected onto a 40 g silica gel column which had been equilibrated with heptane. It was then eluted with a gradient of 0% to 100% ethyl acetate in heptane. The product containing fractions were combined and evaporated under reduced pressure to give the title compound as a clear oil (0.596 g, 62%). 1H NMR (400 MHz, CDCl3) δ 8.15 (d, J=7.6 Hz, 2H), 7.88 (s, 1H), 7.60-7.43 (m, 4H), 7.21 (d, J=7.2 Hz, 1H), 6.62 (d, J=4.1 Hz, 1H), 5.11-4.95 (m, 2H), 4.59-4.48 (m, 1H), 4.01-3.74 (m, 4H), 2.33-2.21 (m, 1H), 2.19 (d, J=3.3 Hz, 3H), 2.03-1.95 (m, 1H), 1.59 (d, J=6.9 Hz, 3H).

reactant | (R)-2-acetoxypropanoic acid | 2.32 mmol, 0.306 g | C(C)(=O)O[C@@H](C(=O)O)C | C5H8O4
reactant | methylene chloride | 200 mmol, 20 mL | C(Cl)Cl | CH2Cl2
reactant | Triethylamine | 3.0 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 2.56 mmol, 0.972 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-dimethylformamide | 20 mmol, 2 mL | CN(C=O)C | C3H7NO
reactant | 1-benzenesulfonyl-N-(tetrahydro-furan-3-yl)-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 2.03 mmol, 0.728 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2COCC2)N | C17H18N4O3S
product | Acetic acid (R)-1-[1-benzenesulfonyl-4-(tetrahydro-furan-3-ylamino)-1H-pyrrolo[2,3-b]pyridin-5-ylcarbamoyl]-ethyl ester | 0.596 g, 62% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2COCC2)NC(=O)[C@@H](C)OC(C)=O | C22H24N4O6S
